US04080443
A mixture comprising 127 grams of 2-trifluoromethyl-6-(4-methoxyphenoxy)pyridine, prepared above in Example V, and 250 milliliters of 48 percent hydrobromic acid was heated at reflux overnight. The mixture was cooled and diluted with water and thereafter extracted with methylene chloride. The extract was concentrated under reduced pressure leaving the 4-((6-trifluoromethyl-2-pyridyl)oxy)phenol, a white solid, as a residue. Recrystallization of this solid from a 3:1 mixture of benzene and hexane gave 69.1 grams (57 percent of theoretical) of the product as a white crystalline solid which melted at 94°-95° C.

reactant | 2-trifluoromethyl-6-(4-methoxyphenoxy)pyridine | 127 grams | FC(C1=NC(=CC=C1)OC1=CC=C(C=C1)OC)(F)F | C13H10F3NO2
reactant | hydrobromic acid | 250 milliliters | Br | BrH
solvent | water | O | H2O
product | 4-((6-trifluoromethyl-2-pyridyl)oxy)phenol | FC(C1=CC=CC(=N1)OC1=CC=C(C=C1)O)(F)F | C12H8F3NO2
